US06723716B1
2-(2-t-Butoxycarbonylaminoethylamino)-4-(2-t-butoxycarbonylaminoethylthiomethyl)-5-mercapto-1,3-thiazole
2-(2-t-butoxycarbonylaminoethylamino)-4-(2-t-butoxycarbonylaminoethylthiomethyl)-5-thiocyanato-1,3-thiazole was reduced with sodium borohydride in a manner similar to that described in Example 44 to produce title compound.

reactant | 2-(2-t-butoxycarbonylaminoethylamino)-4-(2-t-butoxycarbonylaminoethylthiomethyl)-5-thiocyanato-1,3-thiazole | C(C)(C)(C)OC(=O)NCCNC=1SC(=C(N1)CSCCNC(=O)OC(C)(C)C)SC#N | C19H31N5O4S3
reactant | sodium borohydride | [BH4-].[Na+]
product | 2-(2-t-Butoxycarbonylaminoethylamino)-4-(2-t-butoxycarbonylaminoethylthiomethyl)-5-mercapto-1,3-thiazole | C(C)(C)(C)OC(=O)NCCNC=1SC(=C(N1)CSCCNC(=O)OC(C)(C)C)S | C18H32N4O4S3
